US04590270
1 g of 2,4-diamino-5-[1-(p-nitrophenyl)-4-piperidinyl]pyrimidine was dissolved in 50 ml of water and 10 ml of conc. hydrochloric acid, treated with 700 mg of iron powder and stirred at 80° C. for 45 minutes. The mixture was filtered over a filter aid, the filtrate was cooled to 0°-5° C., diazotized with 210 mg of sodium nitrite in 2 ml of water and the resulting diazonium solution was added dropwise at 0°-5° C. to a solution of copper (I) chloride (prepared from 250 mg of copper (II) sulfate pentahydrate, 80 mg of sodium chloride and 70 mg of sodium bisulfite) in 0.8 ml of hydrochloric acid. Thereafter, the reaction mixture was heated at 90° C. for 1 hour, treated with active carbon, filtered and concentrated to 50 ml. The residue was neutralized with ammonium hydroxide, filtered off and the product obtained after distilling off the water was chromatographed on silica gel with CHCl3 /EtOH (9:1). Recrystallization from ethanol yielded 2,4-diamino-5-[1-(p-chlorophenyl)-4-piperidinyl]pyrimidine of melting point 254°-255° C.

reactant | 2,4-diamino-5-[1-(p-nitrophenyl)-4-piperidinyl]pyrimidine | 1 g | NC1=NC=C(C(=N1)N)C1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C15H18N6O2
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
catalyst | iron | 700 mg | [Fe] | Fe
product | 2,4-diamino-5-[1-(p-chlorophenyl)-4-piperidinyl]pyrimidine | NC1=NC=C(C(=N1)N)C1CCN(CC1)C1=CC=C(C=C1)Cl | C15H18ClN5
